US06239151B1
A mixture of 0.323 g of (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(p-toluenesulphonyl)valerohydrazide, 0.111 g of S(+)-1-bromo-2-methylbutane and 0.053 g of anhydrous potassium carbonate in 5 ml of dry dimethylformamide was stirred at room temperature overnight. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulphate and evaporated. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (5:1) for the elution. There was obtained 0.187 g of (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2(S)-methylbutyl)-2′-(p-toluenesulphonyl)valerohydrazide in the form of a gum. MS: 585 (M+H)+. Continued elution of the column gave 0.21 g of the hydrazide used in the reaction.

reactant | (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(p-toluenesulphonyl)valerohydrazide | 0.323 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C1=CC=C(C=C1)C)CC(C)C | C28H38N2O5S
reactant | potassium carbonate | 0.053 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2(S)-methylbutyl)-2′-(p-toluenesulphonyl)valerohydrazide | 0.187 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C1=CC=C(C=C1)C)C[C@H](CC)C)CC(C)C | C33H48N2O5S
